US05510366
(1) 4-Allyloxy-2,3-dihydro-3,3-dimethyl-1H-indol-2-one
1.01 g (5.71 mmol) of 2,3-dihydro-3,3-dimethyl-4-hydroxy-1H-indol-2-one, 1.92 g (5.99 mmol) of allyl iodide, and 1.57 g (11.4 mmol) of potassium carbonate were added to 8.73 ml of N,N-dimethylformamide, and the mixture was stirred for one hour over a water bath at 70° C. After the reaction, the solvent was evaporated and chloroform was added to the residue. The residue was then washed with water, 2N aqueous solution of sodium hydroxide, and brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue obtained was purified by column chromatography (silica gel, chloroform) to obtain 914 mg (yield: 70.2%) of colorless prisms of the title compound.

reactant | 2,3-dihydro-3,3-dimethyl-4-hydroxy-1H-indol-2-one | 5.71 mmol, 1.01 g | CC1(C(NC2=CC=CC(=C12)O)=O)C | C10H11NO2
reactant | allyl iodide | 5.99 mmol, 1.92 g | C(C=C)I | C3H5I
reactant | potassium carbonate | 11.4 mmol, 1.57 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 8.73 ml | CN(C=O)C | C3H7NO
product | 4-Allyloxy-2,3-dihydro-3,3-dimethyl-1H-indol-2-one | C(C=C)OC1=C2C(C(NC2=CC=C1)=O)(C)C | C13H15NO2
